US04801605
Ethyl 6-acetoxy-2-(ethoxycarbonylmethylthio)-phenylacetate (132 g) is added at room temperature to a solution of ammonia (34 g) in anhydrous ethanol (1.0L). After standing for 2 hours the solvent is evaporated in vacuo and the residue is mixed with methylene chloride and 1N hydrochloric acid. The layers are separated and the organic layer is washed with water to neutrality, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated in vacuo to obtain (as shown by NMR) ethyl 6-hydroxy-2-(ethoxycarbonylmethylthio)-phenylacetate as an oil.

reactant | Ethyl 6-acetoxy-2-(ethoxycarbonylmethylthio)-phenylacetate | 132 g | C(C)(=O)OC1=CC=CC(=C1CC(=O)OCC)SCC(=O)OCC | C16H20O6S
reactant | ammonia | 34 g | N | H3N
solvent | ethanol | 1.0L | C(C)O | C2H6O
product | ethyl 6-hydroxy-2-(ethoxycarbonylmethylthio)-phenylacetate | OC1=CC=CC(=C1CC(=O)OCC)SCC(=O)OCC | C14H18O5S
